US05622947
0.85 g of 60% sodium hydride was added to 200 ml of tetrahydrofuran. Thereto was dropwise added 4.68 ml of ethyl diethylphosphonoacetate with ice-cooling and stirring. The mixture was stirred for 10 minutes with ice-cooling. To the reaction mixture was added 2.10 g of 5-oxo-7-chloro-1-[2-methyl-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetra-hydro-1H-benzoazepine. The mixture was stirred at room temperature for 6 hours. The reaction mixture was poured into 200 ml of ice water. The resulting mixture was subjected to extraction with 300 ml of ethyl acetate. The extract was washed with 300 ml of an aqueous sodium chloride solution, then dried over magnesium sulfate, and subjected to distillation to remove the solvent. The residue was purified by silica gel column chromatography (elutant: ethyl acetate/n-hexane=1/2) to obtain 2.22 g of 5-ethoxy-carbonylmethylidene-7-chloro-1-[2-methyl-4-(2-methylbenzoyl-amino)benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine as a mixture of the E form and the Z form.

reactant | sodium hydride | 0.85 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 4.68 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 5-oxo-7-chloro-1-[2-methyl-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetra-hydro-1H-benzoazepine | 2.10 g | O=C1CCCN(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O | C26H23ClN2O3
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-ethoxy-carbonylmethylidene-7-chloro-1-[2-methyl-4-(2-methylbenzoyl-amino)benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine | 2.22 g | C(C)OC1CCC(N(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O)=C=C=O | C30H27ClN2O4
